*$
* LM809_3P08 
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM809_3P08
* Date: 22JUN2015 
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM User's Guide: 
* Datasheet: SNVS052D–SEPTEMBER 1999–REVISED MAY 2013
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT LM809_3P08_TRANS VCC RESET_N NC GND PARAMS: VCC_RESET_TH = 3.08
X_U1         VCC_OUT_HYS VCC_STARTUP CONTROL_VCC AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_ABM7         N119774 0 VALUE { IF(V(VCC_OUT_HYS) >0.5, IF(V(VCC) >
+  VCC_RESET_TH, 1, 0), IF(V(VCC) > (VCC_RESET_TH + VHYS),1,0))    }
X_U66         N16877224 GATE BUF_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_S7    N16840233 N16840288 TIMER_RAMP N16840288 LM809_3P08_S7 
R_R17         N16877355 N16877224  1  
C_C16         0 N16877224  1n  
E_ABM16         N16877568 0 VALUE { 
+ {IF((V(CONTROL_VCC)>0.5)|(V(VCCH)<0.5),V(VCCH),V(VCCL))}    }
C_C11         0 N16840229  1n  
R_R11         N16840321 N16840229  1  
X_S6    COMP_OUT 0 TIMER_RAMP 0 LM809_3P08_S6 
E_ABM2         N16840307 0 VALUE { (V(OUT1)* (-VHYS) + VCC_RESET_TH)    }
E_ABM14         N16801611 0 VALUE { IF(V(OVDRIVE_VCC) > 0.5,1,0)    }
X_S8    GATE 0 RESET_N 0 LM809_3P08_S8 
X_U29         OUT1 VCC_OUT_HYS COMP_OUT AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_S9    GATE 0 VCC_INT RESET_N LM809_3P08_S9 
E_ABM8         N16840321 0 VALUE { LIMIT(VCC_RESET_TH - V(VCC_INT),0,0.7)    }
E_ABM1         VCC_VALID 0 VALUE { IF(V(VCC) > {VCCmin},1,0)    }
X_U6         VCC_INT N16840491 OUT1 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_D6         TIMER_RAMP N16840301 d_d1 PARAMS: 
C_C6         0 VCC_OUT_HYS  1n  TC=0,0 
E_ABM12         VCCH 0 VALUE { IF(V(VRISE) > 0.5 ,1,0)    }
R_R6         N16840307 N16840491  1  
G_G3         VCC 0 TABLE { V(VCC, 0) } 
+ ( (1.2,15u)(2,15u)(5.5,15u) )
E_ABM13         VCCL 0 VALUE { IF(V(N16801619) > 0.5,0,1)    }
R_R9         N119774 VCC_OUT_HYS  1 TC=0,0 
C_C7         0 N16840491  1n  
C_C5         0 N16801619  1n  TC=0,0 
X_U16         VCC_OUT_HYS N16840233 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_D1         VRISE VCCL d_d1 PARAMS: 
V_V8         N16840288 0 1.0
X_U26         TIMER_RAMP OVDRIVE_VCC INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_D2         N16801619 N16801615 d_d1 PARAMS: 
R_R4         N16801611 VRISE  346.320k TC=0,0 
G_G4         N16840301 TIMER_RAMP TABLE { V(N16840229, 0) } 
+ (
+  (1m,1.5u)(2m,2.1u)(3m,2.6u)(5m,3.73u)(10m,6.944u)(20m,13.88u)(50m,22.72u)(100m,33.3u)(500m,50u)
+  )
R_R18         VCC_VALID VCC_STARTUP  1 TC=0,0 
R_R5         N16801615 N16801619  1 TC=0,0 
X_U3         N16801611 N16801615 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_V7         N16840301 0 1.0V
C_C15         0 VCC_STARTUP  1n  TC=0,0 
C_C12         0 TIMER_RAMP  1n  
E_ABM15         N16877355 0 VALUE { IF(V(VCC_VALID) > 0.5, V(N16877568),1)    }
C_C4         0 VRISE  1u  TC=0,0 
R_R7         0 GND  1m TC=0,0 
E_GAIN1         VCC_INT 0 VALUE {1 * V(VCC)}
.PARAM  vccmin=1.0 vhys=0
.ENDS LM809_3P08_TRANS
*$
.SUBCKT LM809_3P08_S7 1 2 3 4  
S_S7         3 4 1 2 _S7
RS_S7         1 2 1G
.MODEL         _S7 VSWITCH Roff=100e6 Ron=0.1 Voff=0.2 Von=0.8
.ENDS LM809_3P08_S7
*$
.SUBCKT LM809_3P08_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=100E6 Ron=1 Voff=0.2 Von=0.8
.ENDS LM809_3P08_S6
*$
.SUBCKT LM809_3P08_S8 1 2 3 4  
S_S8         3 4 1 2 _S8
RS_S8         1 2 1G
.MODEL         _S8 VSWITCH Roff=60E9 Ron=250 Voff=0.8 Von=0.2
.ENDS LM809_3P08_S8
*$
.SUBCKT LM809_3P08_S9 1 2 3 4  
S_S9         3 4 1 2 _S9
RS_S9         1 2 1G
.MODEL         _S9 VSWITCH Roff=60E9 Ron=1000 Voff=0.2 Von=0.8
.ENDS LM809_3P08_S9
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D( IS=1e-15 TT=10p Rs=0 N=0.1m )
.ENDS D_D1
*$
